US07691882B2
(4-(5-Methyl-furan-2-ylmethyl)-phenyl)-methanol
To a mixture of lithium aluminumhydride (230 mg, 4.9 mmol) and tetrahydrofuran (15 mL) was added aluminum chloride (830 mg, 6.2 mmol) at 0° C., which was stirred for 30 minutes at room temperature. A mixture of 4-(hydroxy-(5-methyl-furan-2-yl)-methyl)-benzaldehyde (320 mg, 1.5 mmol) described in Manufacturing Example 46-1-1 and tetrahydrofuran (5 mL) was added dropwise into the reaction mixture at 0° C., and stirred for 2 hours at that temperature. A 28% aqueous ammonia solution was added dropwise into the reaction mixture at the same temperature to quench the excess reagent. The reaction mixture was cooled to room temperature, and filtered by being passed through a Celite bed. The filtrate was concentrated under a reduced pressure to obtain the title compound (330 mg) as a crude product. This compound was used in the following reaction without further purification.

reactant | lithium | [Li] | Li
reactant | aluminum chloride | 6.2 mmol, 830 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-(hydroxy-(5-methyl-furan-2-yl)-methyl)-benzaldehyde | 1.5 mmol, 320 mg | OC(C1=CC=C(C=O)C=C1)C=1OC(=CC1)C | C13H12O3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (4-(5-Methyl-furan-2-ylmethyl)-phenyl)-methanol | 330 mg | CC1=CC=C(O1)CC1=CC=C(C=C1)CO | C13H14O2
